US08431604B2
200.1 (5-tert-butyl-1H-pyrazole-3-yl)-thiourea
1.5 g (11.3 mmol) 3-amino-5-tert-butylpyrazole dissolved in acetonitrile, was added drop-wise and slowly to a solution of 2.0 g (11.3 mmol) thiocarbonyldiimidazole in 25 ml acetonitrile, at 0° C. The batch was stirred for 20 minutes at 0° C., ammonium acetate (1.6 g, 21.5 mmol) was then added, and the mixture was heated in the microwave for 30 minutes at 90° C. (radiation power 200 Watt/without cooling). The solid formed was suction-isolated, the solution was concentrated and the oily residue (4.3 g) was crudely purified on silica gel (0.9 g yellowish solid)

reactant | 3-amino-5-tert-butylpyrazole | 11.3 mmol, 1.5 g | NC1=NNC(=C1)C(C)(C)C | C7H13N3
reactant | thiocarbonyldiimidazole | 11.3 mmol, 2.0 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ammonium acetate | 21.5 mmol, 1.6 g | C(C)(=O)[O-].[NH4+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (5-tert-butyl-1H-pyrazole-3-yl)-thiourea | C(C)(C)(C)C1=CC(=NN1)NC(=S)N | C8H14N4S
